pmos p gate
M1   2  2  0  4  cmosp  l= 9.u  w= 9.u  nrd= 1.  nrs= 1. 
Vds   3  0 -5.
Rds   2  3  100.K
Vbs   4  0  0.
.model cmosp  pmos ( level=6  vto=-0.844345  kc= 41.5964u  gamma= 0.863074 
+ phi= 0.6  rd= 0.  rs= 0.  cbd= 0.  cbs= 0.  is= 0.  pb= 0.7  cgso= 218.971p 
+ cgdo= 218.971p  cgbo= 0.  rsh= 0.  cj= 384.4u  mj= 0.4884  cjsw= 527.2p 
+ mjsw= 0.3002  js= 0.  tox= 41.8n  nsub= 15.3142E+15  nss= 1.E+12 
+ tpg=1  ld= 265.073n  uo= 503.521  fc= 0.5 )
*>.print op v(nodes) iter(0)
*>.op trace iter
*>.print op i(v*) ps(v*)
*>.op
*>.print op id(m1) is(m1) ig(m1) ib(m1) ibd(m1) ibs(m1)
*>.op
*>.print op vgs(m1) vds(m1) vbs(m1) vbd(m1) von(m1) vdsat(m1)
*>.op
*>.print op gm(m1) gds(m1) gmb(m1) gbd(m1) gbs(m1)
*>.op
*>.print op cbd(m1) cbs(m1) cgs(m1) cgd(m1) cgb(m1)
*>.op
*>.print op cqgs(m1) cqgd(m1) cqgb(m1) cqbd(m1) cqbs(m1)
*>.op
*>.print op qgs(m1) qgd(m1) qgb(m1) qbd(m1) qbs(m1)
*>.op
*>.print op cgsovl(m1) cgdovl(m1) cgbovl(m1) cgate(m1) region(m1)
*>.op
*>.print op cgst(m1) cgdt(m1) cgbt(m1)
*>.op
*>.print op vdm(m1) vgm(m1) vbm(m1) vsm(m1)
*>.op
*>.print op vd(m1) vg(m1) vb(m1) vs(m1) vth(m1) vgst(m1)
.op
*>.status notime
.end
